Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2]>>[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]([H:8])([C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-6.4150619969800005
[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:11]([H:12])([H:13])[H:14]>>[C:7]([H:8])=[C:9]([H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])=[C:5][H:6],5.30557898179
[H:1][O:2]/[C:3]=[C:4](\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[H:1].[O:2]=[C:3]=[C:4]([C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],1.00088515821
[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[O:10][H:11]>>[H:1][C:2]=[C:3]([H:4])[H:5].[O:6][C:7]([H:8])([H:9])[O:10][H:11],0.56935563737
[H:1][O:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16].[H:1][O:2][O:3],2.9682137079000004
[H:1][O:2]/[C:3]([O:4][C:5]([H:6])([H:7])[H:8])=[C:9](\[H:10])[C:11][H:12]>>[H:1][O:2][C:3]1([O:4][C:5]([H:6])([H:7])[H:8])[C:9]([H:10])=[C:11]1[H:12],-1.08523070685
[C:1]#[C:2][O:3][C:4][O:5][H:6]>>[C:1][C:2][O:3].[C:4][O:5][H:6],1.1512846020899998
[H:16].[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14][H:15]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16],-4.9633996556
[C:13]([H:14])([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12]>>[H:1][O:2][C:3]([H:4])([H:5])[C@@:6]([H:7])([C:8][C:9]([H:10])([H:11])[H:12])[C:13]([H:14])([H:15])[H:16],-1.33076377316
[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])([H:12])[H:13]>>[H:13].[H:1][O:2]/[C:3]([C:4]([H:5])[H:6])=[C:7](/[H:8])[O:9][C:10]([H:11])[H:12],4.05901978378
[H:12].[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]=[C:13]([H:14])[H:15]>>[H:1][C:2]([H:3])[C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.88381896809
[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:14].[H:1][O:2][O:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],4.56871728929
[H:1][C:2]([H:3])([H:4])[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18]>>[H:1][C:2]([H:3])=[C:5][C@@:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[C:15]([H:16])([H:17])[H:18].[H:4],1.83541636547
[H:1][O:2][C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[C:5]([H:6])([H:7])=[C:8]([H:9])[H:10].[H:1][O:2][C:3]=[O:4],-1.142040713
[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2]([O:3][C:4]#[C:5][C:6]([H:7])[H:8])[C:10]([H:11])([H:12])[H:13].[H:9],3.87772425166
[H:3].[O:1]=[C:2]([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13]>>[O:1][C@@:2]([H:3])([C:4]([H:5])=[C:6]([H:7])[H:8])[C:9]([H:10])([H:11])[O:12][H:13],-0.974218403137
[H:1][C:2]([H:3])[C@:4]([H:5])(/[C:6]([H:7])=[C:8](\[H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17]>>[C:10]([H:11])([H:12])[H:13].[H:1][C:2]([H:3])[C@@:4]([H:5])([C:6]([H:7])=[C:8][H:9])[C:14]([H:15])([H:16])[H:17],4.58384795994
[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17]>>[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2][C:3]([H:4])=[C:5]([H:6])[H:7],1.05732806174
[O:1][C@:2]1([H:3])[O:4][C@@:5]1([H:6])[C:7]([H:8])([H:9])[H:10]>>[O:1]=[C:2]([H:3])[O:4][C:5]([H:6])[C:7]([H:8])([H:9])[H:10],-1.02776015687
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7][O:8][C:9]([H:10])[H:11]>>[C:9]([H:10])[H:11].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]=[O:8],2.28064069898
[H:1][C:2]#[C:3][O:4][C:5]=[C:6]([H:7])[H:8]>>[C:6]([H:7])[H:8].[H:1][C:2]#[C:3][O:4][C:5],6.37862614324
[C:1]#[C:2][C:4]([H:5])([C:6]#[C:7])[O:8][H:9].[H:3]>>[C:1]=[C:2]([H:3])[C@:4]([H:5])([C:6]#[C:7])[O:8][H:9],-3.93313590271
[H:13].[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11][H:12]>>[H:1][C:2]([H:3])=[C:4][O:5][C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]([H:12])[H:13],-4.96795137584
[H:1].[O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])=[C:11]=[C:12]([H:13])[H:14],-4.62696339738
[C:1].[C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9]>>[C:1][C:2]([H:3])([H:4])[O:5][C:6]=[C:7]([H:8])[H:9],-3.86995597409
[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8])[C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7](=[C:8][H:9])[C:10]([H:11])([H:12])[H:13],-3.92836908995
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16]>>[C:9]([H:10])([H:11])[C:12]([H:13])=[C:14]([H:15])[H:16].[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])[H:8],3.9390365827900022
